US05663164
1.0 g of p-nitrobenzylmercaptan was dissolved in 30 of methylene chloride and 0.83 ml of triethylamine and 750 mg of iodine were added while maintaining the temperature at 25° C. and stirring for 10 minutes. After washing with N hydrochloric acid, the organic phase was dried and the solvent was evaporated. 20 ml of ether were added to the residue, and after stirring for 10 minutes, separating and drying, 839 mg of p-nitrobenzyl disulfide melting at 126° C. were obtained.

reactant | p-nitrobenzylmercaptan | 1.0 g | [N+](=O)([O-])C1=CC=C(CS)C=C1 | C7H7NO2S
reactant | iodine | 750 mg | II | I2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.83 ml | C(C)N(CC)CC | C6H15N
product | p-nitrobenzyl disulfide | 839 mg | [N+](=O)([O-])C1=CC=C(CSSCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H12N2O4S2
